US07598373B2
Walton et al. described the synthesis of 2′-C-methyladenosine from 2-C-methyl-D-ribono-lactone (Walton et al., J. Am. Chem. Soc., 88(19):4524-5 (1966)). In this case, the lactone was converted into its 2,3,5-tri-O-benzoyl derivative, and then reduced with bis(3-methyl-2-butyl)borane to provide an anomeric mixture of 2,3,5-tri-O-benzoyl-2-C-methyl-D-ribofuranose (Id.). Attempts at separating the anomeric mixture both on acid-washed alumina and on silica gel resulted in rearrangement to 1,3,5-tetra-O-benzoyl-2-C-methyl-α-D-ribofuranose (Id.). In order to avoid rearrangement, the additional steps of treating the mixed anomers with benzoyl chloride in pyridine to obtain 1,2,3,5-tetra-O-benzoyl-2-C-methyl-(α)/(β)-D-ribofuranose, and of isolating the final product by chromatography were needed (Id.). Later Walton et al. described the synthesis of 2′-C-methyl-5-fluorocytidine, 2′-C-methyl-5-fluorouridine, and 2′- and 3′-C-methylcytidine via the Hilbert-Johnson reaction (Walton et al., Antiviral Nucleosides 12:306-309 (1969)). However, unexpectedly large amounts of O-glycoside formed when 2′-C-methylcytidine was synthesized from N-acetylcytosine-mercury, and mercury itself is a toxic reagent whose avoidance is desirable (Id.). In both synthetic procedures described by Walton et al., the final product yield was only about 11%.

reactant | 2′-C-methyl-5-fluorocytidine | C[C@@]1([C@@H](O[C@@H]([C@H]1O)CO)N1C(=O)N=C(N)C(=C1)F)O | C10H14FN3O5
reactant | 2′-C-methyl-5-fluorouridine | C[C@@]1([C@@H](O[C@@H]([C@H]1O)CO)N1C(=O)NC(=O)C(=C1)F)O | C10H13FN2O6
product | 2′-C-methylcytidine | C[C@@]1([C@@H](O[C@@H]([C@H]1O)CO)N1C(=O)N=C(N)C=C1)O | C10H15N3O5
